US04039551
According to the procedure of Preparation 2, 7-methylthio-5-(2-pyridyl)-3H-1,4-benzodiazepin-2-yl hydrazine was reacted with chloroacetyl chloride in acetic acid to give 8-methylthio-1-(chloromethyl)-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 7-methylthio-5-(2-pyridyl)-3H-1,4-benzodiazepin-2-yl hydrazine | CSC=1C=CC2=C(C(=NCC(=N2)NN)C2=NC=CC=C2)C1 | C15H15N5S
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 8-methylthio-1-(chloromethyl)-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | CSC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=NC=CC=C3)C1 | C17H14ClN5S
